US07169925B2
Step B 1: 2-Amino-N-tert-butyl-5-fluorobenzamide
Stir and cool to 0° C. a solution of 2-amino-5-fluorobenzoic acid (7.75 g, 50 mmol), N-hydroxysuccinimide (6.9 g, 60 mmol) and dimethylaminopyridine (1.0 g) in dichloromethane (200 mL). Add, dropwise, a 1M solution of dicyclohexylcarbodiimide in dichloromethane (60 mL, 60 mmol), and stir at 0° C. for 1H. Add tert-butyl amine (20 mL, 190.3 mmol) by syringe and stir at 0° C. for 3 h and then at ambient temperature overnight. Pour onto a pad of silica gel and elute with 5% ethyl acetate/dichloromethane. Combine like fractions and concentrate to obtain a crude solid. Triturate the solid with heptane and filter to obtain 7.7 g (73%) of the title compound: MS 211(M+H), m.p. 77–78° C.

reactant | 2-amino-5-fluorobenzoic acid | 50 mmol, 7.75 g | NC1=C(C(=O)O)C=C(C=C1)F | C7H6FNO2
reactant | N-hydroxysuccinimide | 60 mmol, 6.9 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dimethylaminopyridine | 1.0 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | tert-butyl amine | 190.3 mmol, 20 mL | C(C)(C)(C)N | C4H11N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 60 mmol, 60 mL | ClCCl | CH2Cl2
product | 2-Amino-N-tert-butyl-5-fluorobenzamide | 7.7 g, 73% | NC1=C(C(=O)NC(C)(C)C)C=C(C=C1)F | C11H15FN2O
